US08609847B2
Preparation of 6-[(1-cyclopropylpiperidin-4-yl)oxy]-1-(4-fluorophenyl)-3,4-dihydroquinolin-2(1H)-one (Compound No. 77)
A suspension of 1-(4-fluorophenyl)-6-(piperidin-4-yloxy)-3,4-dihydroquinolin-2(1H)-one hydrochloride prepared in Example 7-(3) (0.30 g), triethylamine (0.080 g), [(1-ethoxycyclopropyl)-oxy]trimethylsilane (0.69 g), acetic acid (0.48 g) and molecular sieves 3A (1.0 g) in methanol (10 mL) was stirred at room temperature for 1 hour, followed by addition of sodium cyanoborohydride (0.25 g) and stirring at the same temperature for 16 hours. The reaction mixture was warmed to 95° C., heated under reflux for 7 hours, and then cooled to room temperature, followed by filtration to remove insoluble materials. The filtrate was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (eluting solvent: chloroform→chloroform/methanol=4/1) and preparative TLC (on a single plate of 2 mm thickness, developing solvent: chloroform/methanol=9/1) to give the titled compound (0.11 g, 37%) as a colorless amorphous substance.

reactant | 1-(4-fluorophenyl)-6-(piperidin-4-yloxy)-3,4-dihydroquinolin-2(1H)-one hydrochloride | Cl.FC1=CC=C(C=C1)N1C(CCC2=CC(=CC=C12)OC1CCNCC1)=O
reactant | triethylamine | 0.080 g | C(C)N(CC)CC | C6H15N
reactant | [(1-ethoxycyclopropyl)-oxy]trimethylsilane | 0.69 g | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | sodium cyanoborohydride | 0.25 g | C(#N)[BH3-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | acetic acid | 0.48 g | C(C)(=O)O | C2H4O2
product | 6-[(1-cyclopropylpiperidin-4-yl)oxy]-1-(4-fluorophenyl)-3,4-dihydroquinolin-2(1H)-one | 0.11 g, 37% | C1(CC1)N1CCC(CC1)OC=1C=C2CCC(N(C2=CC1)C1=CC=C(C=C1)F)=O | C23H25FN2O2
